US08211923B2
Diethyl({(3,5-dichloro-phenylsulphonyl)-[1-(2-morpholin-4-yl-acetyl)-1H-indol-5-yl]-amino}-methyl)-phosphonate
125 mg diethyl {[[1-(2-chloro-acetyl)-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate are dissolved in 2 ml dimethylformamide, combined with 34 mg potassium carbonate and 22 μl morpholine and stirred overnight at ambient temperature. The mixture is divided between ethyl acetate and water. The organic phase is washed with saturated sodium chloride solution and dried on magnesium sulphate. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (ethyl acetate/methanol 30:1 to 10:1).

reactant | diethyl {[[1-(2-chloro-acetyl)-1H-indol-5-yl]-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate | 125 mg | ClCC(=O)N1C=CC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CP(OCC)(OCC)=O | C21H22Cl3N2O6PS
reactant | potassium carbonate | 34 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 22 μl | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Diethyl({(3,5-dichloro-phenylsulphonyl)-[1-(2-morpholin-4-yl-acetyl)-1H-indol-5-yl]-amino}-methyl)-phosphonate | C(C)OP(OCC)(=O)CN(C=1C=C2C=CN(C2=CC1)C(CN1CCOCC1)=O)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C25H30Cl2N3O7PS
